US05110818
6-(N-acetylamino)-9-(2-fluorobenzyl)-2-(N-methylamino)-9H-purine;
6-(N-acetylamino)-9-(2-chlorobenzyl)-2-(N-methylamino)-9H-purine and 6-(N-acetylamino)-9-(2,6-difluorobenzyl)-2-(N-methylamino)-9H-purine.

reactant | 6-(N-acetylamino)-9-(2-chlorobenzyl)-2-(N-methylamino)-9H-purine | C(C)(=O)NC1=C2N=CN(C2=NC(=N1)NC)CC1=C(C=CC=C1)Cl | C15H15ClN6O
reactant | 6-(N-acetylamino)-9-(2,6-difluorobenzyl)-2-(N-methylamino)-9H-purine | C(C)(=O)NC1=C2N=CN(C2=NC(=N1)NC)CC1=C(C=CC=C1F)F | C15H14F2N6O
product | 6-(N-acetylamino)-9-(2-fluorobenzyl)-2-(N-methylamino)-9H-purine | C(C)(=O)NC1=C2N=CN(C2=NC(=N1)NC)CC1=C(C=CC=C1)F | C15H15FN6O
